US06180622B2
Concentrated hydrochloric acid (0.204 ml) is added dropwise to a solution of 206 mg of (3R,5R)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-(imidazo[5,1-b]thiazol-7-yl)methylpyrrolidine in 5 ml of dry acetonitrile under ice cooling, and the mixture is stirred at that temperature for 20 min. The reaction solution is diluted with 20 ml of ethyl acetate, saline is added to the diluted solution, the mixture is adjusted to pH 9 by addition of a saturated aqueous sodium hydrogencarbonate solution, and the mixture is extracted three times with ethyl acetate. The organic layer is dried over anhydrous magnesium sulfate and filtered, and the solvent is removed by evaporation under reduced pressure. The residue is purified by column chromatography on silica gel (chloroform:methanol=10:1) to give 162 mg of (3R,5R)-1-allyloxycarbonyl-3-hydroxy-5-(imidazo[5,1-b]thiazol-7-yl)methylpyrrolidine.

reactant | hydrochloric acid | 0.204 ml | Cl | ClH
reactant | (3R,5R)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-(imidazo[5,1-b]thiazol-7-yl)methylpyrrolidine | 206 mg | C(C=C)OC(=O)N1C[C@@H](C[C@H]1CC=1N=CN2C1SC=C2)O[Si](C)(C)C(C)(C)C | C20H31N3O3SSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (3R,5R)-1-allyloxycarbonyl-3-hydroxy-5-(imidazo[5,1-b]thiazol-7-yl)methylpyrrolidine | 162 mg | C(C=C)OC(=O)N1C[C@@H](C[C@H]1CC=1N=CN2C1SC=C2)O | C14H17N3O3S
